US09255110B2
2-(cis-2-Amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide
A suspension of the mixture of 80 mg of 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide and 2-(benzotriazol-1-yloxy)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide and 0.17 g (1.41 mmole) of cis-1,2-diaminocyclohexane (from step a) in Dioxane (3 mL) was stirred at 60° C. for overnight. The reaction were cooled down and diluted with CH2Cl2, washed with aqueous Na2CO3, brine, dried over anhydrous Na2SO4, concentrated and purified by flash chromatography (silica gel, 40 g, 0% to 30% MeOH (0.7 N) in CH2Cl2) to 40 mg of 2-(cis-2-amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide as light yellow solid. MH+/Z=419.

reactant | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide | 80 mg | N1=CC=CC2=CC=CC(=C12)NC(=O)C1=CSC2=C1N=C(N=C2)Cl | C16H9ClN4OS
reactant | 2-(benzotriazol-1-yloxy)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide | N1=CC=CC2=CC=CC(=C12)NC(=O)C1=CSC2=C1N=C(N=C2)ON2N=NC1=C2C=CC=C1 | C22H13N7O2S
reactant | cis-1,2-diaminocyclohexane | 1.41 mmole, 0.17 g | N[C@H]1[C@H](CCCC1)N | C6H14N2
solvent | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(cis-2-Amino-cyclohexylamino)-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-8-ylamide | N1=CC=CC2=CC=CC(=C12)NC(=O)C1=CSC2=C1N=C(N=C2)N[C@H]2[C@H](CCCC2)N | C22H22N6OS
